US04863949
1-(2-Chloro-5-methylphenoxy)-3-[2-[(3-nitroxypropylamino)-carbonylamino]-ethylamino]-propan-2-ol.
3.1 g. 1-(2-Chloro-5-methylphenoxy)-2,3-epoxypropane and 8.5 g. 2-[(3-nitroxypropylamino)-carbonylamino]-ethylamine in 100 ml. n-butanol are stirred at ambient temperature for 18 hours. The solvent is distilled off at 30° C. bath temperature under oil pump vacuum, the residue is dissolved in 150 ml. ethyl acetate and this solution is washed 4 times with 60 ml. amounts of water. The organic phase is dried and evaporated and the residue is chromatographed on silica gel with methylene chloride/methanol (6:4 v/v). The appropriate fractions are evaporated and the residue is triturated with diethyl ether, filtered off with suction and dried. There are obtained 2.2 g. (35% of theory) of the desired product in the form of crystals; m.p. 109°-111° C.

reactant | 1-(2-Chloro-5-methylphenoxy)-2,3-epoxypropane | ClC1=C(OCC2CO2)C=C(C=C1)C | C10H11ClO2
reactant | 2-[(3-nitroxypropylamino)-carbonylamino]-ethylamine | O([N+](=O)[O-])CCCNC(=O)NCCN | C6H14N4O4
solvent | n-butanol | C(CCC)O | C4H10O
product | 1-(2-Chloro-5-methylphenoxy)-3-[2-[(3-nitroxypropylamino)-carbonylamino]-ethylamino]-propan-2-ol | ClC1=C(OCC(CNCCNC(=O)NCCCO[N+](=O)[O-])O)C=C(C=C1)C | C16H25ClN4O6
